US07795236B2
3′-Benzyloxybiphenyl-4-ylmethylamine
To an ice-cold solution of tert-butyl N-(3′-benzyloxy-biphenyl-4-ylmethyl)carbamate (0.500 g) in dichloromethane (2.6 mL) was added trifluoroacetic acid (0.976 mL), and the resulting mixture was stirred under ice-cooling for 1 hour. Saturated aqueous sodium hydrogen carbonate (15 mL) was added dropwise and the whole was extracted with dichloromethane (30 mL). The organic layer was washed with saturated aqueous sodium hydrogen carbonate/brine (1/1, 10 mL), dried over anhydrous sodium sulfate and concentrated under reduced pressure to give the title compound (0.367 g).

reactant | tert-butyl N-(3′-benzyloxy-biphenyl-4-ylmethyl)carbamate | 0.500 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=CC=C(C=C1)CNC(OC(C)(C)C)=O | C25H27NO3
reactant | trifluoroacetic acid | 0.976 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydrogen carbonate | 15 mL | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 2.6 mL | ClCCl | CH2Cl2
product | 3′-Benzyloxybiphenyl-4-ylmethylamine | 0.367 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=CC=C(C=C1)CN | C20H19NO
